US05244889
Methyl (3R)-6-methoxycarbonyl-5oxo-1-thia-4-azacyclotridecane-3-carboxylate (2.39 g, 7.21 mmol) is suspended in methanol (75 ml) and 1N sodium hydroxide (22.0 ml, 22.0 mmol) is added. The mixture is stirred for 4 hours at room temperature. The solvent is evaporated and the residue is dissolved in water (150 ml). The aqueous solution is adjusted to pH 1 by addition of 1N hydrochloric acid and extracted with ethyl acetate (3×100 ml). The combined extracts are washed with brine (1×100 ml), dried (MgSO4) and the solvent is evaporated to give (3R)-6-carboxy-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid, m.p. 167°-170° C.

reactant | Methyl (3R)-6-methoxycarbonyl-5oxo-1-thia-4-azacyclotridecane-3-carboxylate | 7.21 mmol, 2.39 g | COC(=O)C1C(N[C@@H](CSCCCCCCC1)C(=O)OC)=O | C15H25NO5S
reactant | sodium hydroxide | 22.0 mmol, 1N, 22.0 ml | [OH-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | (3R)-6-carboxy-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid | C(=O)(O)C1C(N[C@@H](CSCCCCCCC1)C(=O)O)=O | C13H21NO5S
